US06174885B1
(1) 2-Octadecyl-4,7,3a,7a-tetrahydroisoindole-1,3-dione
Octadecylamine (5.31 g) was added to 4,7,3a,7a-tetrahydroisobenzofuran-1,3-dione (3.00 g). After being stirred for 2 hours at 110° C., the reaction mixture was purified by silica gel column chromatography (silica gel 80 g, chloroform), thereby yielding the entitled compound (7.85 g) as yellow crystals.

reactant | Octadecylamine | 5.31 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | 4,7,3a,7a-tetrahydroisobenzofuran-1,3-dione | 3.00 g | C1(OC(C2CC=CCC12)=O)=O | C8H8O3
product | 2-Octadecyl-4,7,3a,7a-tetrahydroisoindole-1,3-dione | 7.85 g | C(CCCCCCCCCCCCCCCCC)N1C(C2CC=CCC2C1=O)=O | C26H45NO2
